US06599917B1
f) (3R)-3-[2-Benzyl-6-(cis-3,4-dimethoxypyrrolidine-1-yl)-3-pyridyl]ethynyl-3-quinuclidinol
A mixture of 510 mg of 2-benzyl-6-(cis-3,4-dimethoxypyrrolidine-1-yl)-3-iodopyridine, 200 mg of (3R)-3-ethynyl-3-quinuclidinol, 139 mg of tetrakis (triphenylphosphine) palladium (0), 11 mg of cuprous iodide, 0.50 ml of triethylamine and 5.0 ml of N,N-dimethylformamide was heated under stirring at 75° C. for 2 hours in a nitrogen atmosphere. The reaction solution was poured into aqueous dilute ammonia and extracted with ethyl acetate. The extract was washed with brine and the solvent was removed. The residue was subjected to NH-silica gel (Fuji Silicia) column chromatography and eluted with hexane/ethyl acetate (1:1) and then with ethyl acetate/methanol (15:1), to give 281 mg of the target compound.

reactant | 2-benzyl-6-(cis-3,4-dimethoxypyrrolidine-1-yl)-3-iodopyridine | 510 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@H]([C@H](C1)OC)OC | C18H21IN2O2
reactant | (3R)-3-ethynyl-3-quinuclidinol | 200 mg | C(#C)[C@]1(CN2CCC1CC2)O | C9H13NO
reactant | triethylamine | 0.50 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia | N | H3N
catalyst | tetrakis (triphenylphosphine) palladium (0) | 139 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | (3R)-3-[2-Benzyl-6-(cis-3,4-dimethoxypyrrolidine-1-yl)-3-pyridyl]ethynyl-3-quinuclidinol | 281 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1C#C[C@]1(CN2CCC1CC2)O)N2C[C@H]([C@H](C2)OC)OC | C27H33N3O3
